US06521666B1
A mixture of 2,6-dimethoxy-4-[(t-butyldiphenylsilyloxy)methyl]benzeneboronic acid (5.2 g), N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester (1.71 g), Pd(PPh3)4 (0.44 g) and K2CO3 (1.59 g) in DME/H2O (20 mL/0.5 mL) was heated at 80° C. for 24 h under N2. The mixture was worked up and purified in a similar procedure as described in Example 8-3) to yield 2.9 g of N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-[(t-butyldiphenylsilyloxy)methyl]phenyl]-L-phenylalanine ethyl ester. ESMS: m/z 770 (MH+).

reactant | 2,6-dimethoxy-4-[(t-butyldiphenylsilyloxy)methyl]benzeneboronic acid | 5.2 g | COC1=C(C(=CC(=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC)B(O)O | C25H31BO5Si
reactant | N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester | 1.71 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)Br)=O | C18H16BrCl2NO3
reactant | K2CO3 | 1.59 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME H2O | 20 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-[(t-butyldiphenylsilyloxy)methyl]phenyl]-L-phenylalanine ethyl ester | 2.9 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC)=O | C43H45Cl2NO6Si
